US06624158B2
(2R,3R,4R,5R)-4-(Acetoxy)-2-{2-({[({2-[cyclopentyl(isopropyl)-amino]ethyl}amino)carbonyl]amino}methyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-5-(2-ethyl-2H-tetrazol-5-yl)tetrahydro-3-furanyl acetate
Prepared from N-{2-[cyclopentyl(isopropyl)amino]ethyl}-N′-({6-[(2,2-diphenyl-ethyl)amino]-9H-purin-2-yl}methyl)urea (Preparation 44) and (2R,3R,4R)-4,5-bis(acetoxy)-2-(2-ethyl-2H-tetrazol-5-yl)tetrahydro-3-furanyl acetate (WO 9967265) by a similar procedure to Preparation 26. The title compound was obtained as a white solid.

reactant | N-{2-[cyclopentyl(isopropyl)amino]ethyl}-N′-({6-[(2,2-diphenyl-ethyl)amino]-9H-purin-2-yl}methyl)urea | C1(CCCC1)N(CCNC(=O)NCC1=NC(=C2N=CNC2=N1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C(C)C | C31H40N8O
reactant | (2R,3R,4R)-4,5-bis(acetoxy)-2-(2-ethyl-2H-tetrazol-5-yl)tetrahydro-3-furanyl acetate | C(C)(=O)O[C@@H]1[C@H](OC([C@@H]1OC(C)=O)OC(C)=O)C=1N=NN(N1)CC | C13H18N4O7
product | (2R,3R,4R,5R)-4-(Acetoxy)-2-{2-({[({2-[cyclopentyl(isopropyl)-amino]ethyl}amino)carbonyl]amino}methyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-5-(2-ethyl-2H-tetrazol-5-yl)tetrahydro-3-furanyl acetate | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C=1N=NN(N1)CC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)CNC(=O)NCCN(C(C)C)C1CCCC1 | C42H54N12O6
